US09447030B2
To a solution of 3-((dimethylamino)methyl)-N-(4′-fluoro-4-nitro-[1,1′-biphenyl]-3-yl)azetidine-1-carboxamide (1.7 g, 4.57 mmol, 1.0 eq.) in methanol (100 mL) and was added 10% Pd/C (1.0 g, 0.94 mmol). The reaction mixture was stirred 2 h under a hydrogen atmosphere. The reaction was then filtered and the filtrate was concentrated under reduced pressure to give N-(4-amino-4′-fluoro-[1,1′-biphenyl]-3-yl)-3-((dimethylamino)methyl)azetidine-1-carboxamide (35 mg, 3% yield) as an off-white solid. ESI+ MS: m/z 343 ([M+H]+), 1HNMR (500 MHz, DMSO-d6): δ 7.61 (s, 1H), 7.53-7.51 (m, 2H), 7.36 (d, J=2.0 Hz, 1H), 7.21-7.15 (m, 3H), 6.76 (d, J=8.5 Hz, 1H), 4.98 (s, 2H), 3.99 (t, J=8.0 Hz, 2H), 3.58 (dd, J12=6.0 Hz, J13=8.0 Hz, 2H), 2.72-2.69 (m, 1H), 2.45-2.44 (m, 2H), 2.13 (s, 6H).

reactant | 3-((dimethylamino)methyl)-N-(4′-fluoro-4-nitro-[1,1′-biphenyl]-3-yl)azetidine-1-carboxamide | 4.57 mmol, 1.7 g, 1.0 eq. | CN(C)CC1CN(C1)C(=O)NC=1C=C(C=CC1[N+](=O)[O-])C1=CC=C(C=C1)F | C19H21FN4O3
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd/C | 0.94 mmol, 1.0 g | [Pd] | Pd
product | N-(4-amino-4′-fluoro-[1,1′-biphenyl]-3-yl)-3-((dimethylamino)methyl)azetidine-1-carboxamide | 35 mg, 3% yield | NC1=C(C=C(C=C1)C1=CC=C(C=C1)F)NC(=O)N1CC(C1)CN(C)C | C19H23FN4O
